US05221685
(7) Synthesis of 2-(4-methylbenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 7)
In toluene (10 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (0.5 g) and triethylamine (1.0 ml), and 4-methylbenzoyl chloride (0.3 g) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 0.5 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzoyl chloride | 0.3 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methylbenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | CC1=CC=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=C1 | C15H8F10N2OS
